### ISSUE TITLE
`simp` fails to discharge `auto_param` premises even when it can reduce them to `True`

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#3257]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

`simp` fails to discharge `auto_param` premises even when it can reduce the premise to `True` without running the `auto_param` tactic:

```lean
structure T : Prop
structure U : Prop

theorem foo : T → U := λ _ => {}
theorem bar : (_ : T := by trivial) → U := λ _ => {}

-- fails as expected
example : U := by
  simp

-- works as expected, discharging `T` via `T.mk`
example : U := by
  simp [foo, T.mk]

-- fails, failing to discharge `T` via `T.mk`
example : U := by
  set_option trace.Meta.Tactic.simp true in
  simp [bar, T.mk]
  -- [Meta.Tactic.simp.discharge] >> discharge?: autoParam T _auto
  -- [Meta.Tactic.simp.rewrite] { }:1000, T ==> True
  -- [Meta.Tactic.simp.discharge] bar, failed to discharge hypotheses autoParam T _auto
```

### Context

Possibly related to #2243 and #2862.

### Versions

4.6.0-rc1

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by JLimperg** [comment]
:tada: Thanks!
